### PR TITLE
[Merged by Bors] - feat: elements of `adjoin S` are fixed by `m` iff elements of `S` are

### PR DESCRIPTION
**Pull request by xroblot**
This PR proves:
```lean
(∀ x ∈ adjoin F S, m • x = x) ↔ (∀ x ∈ S, m • x = x)
```
both in the `Algebra.adjoin` and `IntermediateField.adjoin` cases

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 1]
```diff
@@ -835,3 +835,17 @@ instance [FaithfulSMul R S] : FaithfulSMul (MvPolynomial σ R) (MvPolynomial σ
...
+
+theorem Algebra.forall_mem_adjoin_smul_eq_self_iff (R : Type*) {A : Type*} [CommSemiring R]
+    [CommSemiring A] [Algebra R A] (S : Set A) {M : Type*} [Monoid M] [MulSemiringAction M A]
+    [SMulCommClass M R A] (m : M) :
+    (∀ x ∈ adjoin R S, m • x = x) ↔ (∀ x ∈ S, m • x = x) := by
+  refine ⟨fun h x hx ↦ h _ <| mem_adjoin_of_mem hx, fun h x hx ↦ ?_⟩
+  obtain ⟨r, rfl⟩ := adjoin_eq_range R S ▸ hx
+  rw [← MulSemiringAction.toAlgHom_apply R, AlgHom.toRingHom_eq_coe, RingHom.coe_coe,
+    MvPolynomial.comp_aeval_apply]
+  simp_rw [MulSemiringAction.toAlgHom_apply, h _ (Subtype.prop _)]
```
Comment (ADedecker) [inline Mathlib/Algebra/MvPolynomial/Eval.lean]:
```suggestion
    (∀ x ∈ adjoin R S, m • x = x) ↔ (∀ x ∈ S, m • x = x) :=
  AlgHom.eqOn_adjoin_iff (φ := MulSemiringAction.toAlgHom R A m) (ψ := .id R A)
```
I think this can go in the same section as `AlgHom.eqOn_adjoin_iff`

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean [hunk 2]
```diff
@@ -63,6 +63,15 @@ theorem mem_adjoin_simple_iff {α : E} (x : E) :
...
     AlgHom.mem_range, exists_exists_eq_and]
 
+theorem forall_mem_adjoin_smul_eq_self_iff {M : Type*} [Monoid M] [MulSemiringAction M E]
+    [SMulCommClass M F E] (m : M) :
+    (∀ x ∈ adjoin F S, m • x = x) ↔ (∀ x ∈ S, m • x = x) := by
+  refine ⟨fun h x hx ↦ h _ <| mem_adjoin_of_mem F hx, fun h x hx ↦ ?_⟩
+  obtain ⟨r, s, rfl⟩ := (mem_adjoin_iff _ _).mp hx
+  rw [← MulSemiringAction.toAlgHom_apply F, map_div₀, MvPolynomial.comp_aeval_apply,
+    MvPolynomial.comp_aeval_apply]
+  simp_rw [MulSemiringAction.toAlgHom_apply, h _ (Subtype.prop _)]
```
Comment (ADedecker) [inline Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean]: Here is an almost working suggestion:
```suggestion
theorem forall_mem_adjoin_smul_eq_self_iff {M : Type*} [Group M] [MulSemiringAction M E]
    [SMulCommClass M F E] (m : M) :
    (∀ x ∈ adjoin F S, m • x = x) ↔ (∀ x ∈ S, m • x = x) := by
  refine ⟨fun h x hx ↦ h _ <| mem_adjoin_of_mem F hx, fun h x hx ↦ ?_⟩
  induction hx using adjoin_induction F <;> simp_all [smul_inv₀']
```
The problem is that this requires `M` to be a group because [smul_inv₀'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Action/Defs.html#smul_inv%E2%82%80') does (ultimately, this is because [instSMulZeroClass](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Action/Defs.html#instSMulZeroClass) needs a group action, which is stupid in your case where you already know the action preserves zero...). How much do you care about generalizing to monoids?

File: Mathlib/Algebra/MvPolynomial/Eval.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Algebra/MvPolynomial/Eval.lean]: Oh, indeed, `AlgHom.eqOn_adjoin_iff` is very useful here.

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean]: For my current use, groups would be fine but I can envision some work in the future, for example while studying Galois module, where one could have an action by a group ring and thus having the general version for monoids would be useful. So I would rather like to keep the more general version.

Comment (erdOne) [reply Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean]: The "correct proof" for this is probably to define `FixedBy.intermediateField` analogous to `FixedBy.subfield`, and then this is just `IntermediateField.adjoin_le_iff`. But the current proof is also short enough that I am happy to maintainer merge it if you prefer.

Comment (xroblot) [reply Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean]: I added `FixedBy.intermediateField` and indeed it makes the proof of `forall_mem_adjoin_smul_eq_self_iff` a bit shorter: 
```lean
theorem forall_mem_adjoin_smul_eq_self_iff (S : Set E) :
    (∀ x ∈ adjoin F S, m • x = x) ↔ ∀ x ∈ S, m • x = x := by
  change adjoin F S ≤ FixedBy.intermediateField F E m ↔ _
  simp [IntermediateField.adjoin_le_iff, Set.subset_def]
```
However, the new proof needs to be in `Mathlib.FieldTheory.Galois.Basic` rather than `Mathlib.FieldTheory.IntermediateField.Adjoin.Basic`. So I think it is probably better to keep the old proof since it needs less imports.

Comment (erdOne) [reply Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean]: It seems fine to import `Fixed` here according to `#trans_import` I think.

**Review by erdOne — APPROVED** [review]
Thanks!
LGTM

There's still an awaiting author tag so I'm not sure if you plan to work on it further but I'm more than happy to maintainer merge if you indicate otherwise.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
